US04254260
To a mixture of 3-bromo-4-oxovaleric acid (4.0 g.) in ethanol (50 ml.) was added powder of thiourea (1.6 g.) and the mixture was stirred for 3 hours at the room temperature, and then the precipitated crystals were collected by filtration and then dried to give 2-amino-4-methylthiazol-4-ylacetic acid hydrobromide (1.5 g.).

reactant | 3-bromo-4-oxovaleric acid | 4.0 g | BrC(CC(=O)O)C(C)=O | C5H7BrO3
reactant | thiourea | 1.6 g | NC(=S)N | CH4N2S
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 2-amino-4-methylthiazol-4-ylacetic acid hydrobromide | 1.5 g | Br.NC=1SCC(N1)(C)CC(=O)O | InChI=1S/C6H10N2O2S.BrH/c1-6(2-4(9)10)3-11-5(7)8-6;/h2-3H2,1H3,(H2,7,8)(H,9,10);1H
